### PR TITLE
Hackers delight theorems

### PR DESCRIPTION
**Pull request by AnotherAlexHere**
Just stated the theorems.

### CODE REVIEW

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
...
+  sorry
+
+theorem not_sub_eq_not_add {x y : BitVec w} : ~~~ (x - y) = ~~~ x + y := by
+  sorry
+
+-- x equals y
+
+
+-- x equals y
+
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/HackersDelight.lean:73]: Are here theorems missing?

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 2]
```diff
@@ -0,0 +1,83 @@
...
+import Init.Data.BitVec.Lemmas
+import Init.Data.BitVec.Bitblast
+
+namespace HackersDelight
+
+namespace Ch2Basics
+
+-- simple x
+theorem neg_eq_not_add_one {x : BitVec w} : - x = ~~~ x + 1 := by
+  apply BitVec.neg_eq_not_add
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/HackersDelight.lean:11]:
```suggestion
theorem neg_eq_not_add_one {x : BitVec w} :
    - x = ~~~ x + 1 := by
  apply BitVec.neg_eq_not_add
```

I suggest the following formatting, as it will make it easier to match the formulas, as they are on a new line always 4 columns indented.

Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/HackersDelight.lean:11]: Also, I feel there is no whitespace between a character and the unary `-`?

File: SSA/Projects/InstCombine/HackersDelight.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+theorem not_eq_neg_sub_one {x : BitVec w} : ~~~ x = - x - 1 := by
+  sorry
+
+theorem neg_not_eq_add_one {x : BitVec w} : - ~~~ x = x + 1 := by
+  sorry
+
+theorem not_neg_eq_sub_one {x : BitVec w} : ~~~ (- x) = x - 1 := by
+  sorry
+
+--- x add y
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/HackersDelight.lean:25]: I think we don't really need comments that restate the obvious, no?

**Comment by tobiasgrosser** [comment]
How nice to see this moving ahead. 🤩 

Also, maybe `git merge origin/main` to resolve the conflict.

**Comment by tobiasgrosser** [comment]
This is made redundant by https://github.com/opencompl/lean-mlir/pull/468.
